US07906517B2
2-{[(3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-benzoic acid (1 g) is dissolved in tetrahydrofuran (10 ml), and thereto are added diphenoxyphosphinylazide (540 μl), triethylamine (695 μl) and ethanol (6 ml) and the mixture is heated at 60° C. for 3 days with stirring. The reaction solution is cooled to room temperature, and thereto are added 1N-hydrochloric acid and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=1:0→4:1→chloroform:methanol=4:1) to give ethyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-carbamate (660 mg). MS (m/z): 645/647 [M+H]+

reactant | 2-{[(3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-benzoic acid | 1 g | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC2=C(C(=O)O)C=CC(=C2)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C22H13BrF9N3O2
reactant | diphenoxyphosphinylazide | 540 μl | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)N=[N+]=[N-] | C12H10N3O3P
reactant | triethylamine | 695 μl | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | ethyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-carbamate | 660 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC2=C(C=CC(=C2)C(F)(F)F)NC(OCC)=O)C=C(C1)C(F)(F)F)(F)F | C24H18BrF9N4O2
